US07531668B2
At 0° C., ethyl chloroformate (455 μL) was added to a chloroform solution (13 mL) of N-(4-aminobenzyl)-N,N-diethylamine dihydrochloride (1.0 g) obtained in Reference Example 2-1-(2) and triethylamine (2.2 mL), and stirred at 0° C. for 1.5 hours and then at room temperature for 2 hours. Aqueous sodium hydrogencarbonate solution was added to the reaction liquid to stop the reaction, and this was extracted with chloroform. The organic layer was washed with water and saturated saline water, and then dried with anhydrous sodium sulfate. The organic layer was concentrated under reduced pressure, and the residue was purified through silica gel column chromatography (chloroform/methanol=9/1) to obtain ethyl N-{4-[(diethylamino)methyl]phenyl}carbamate (530 mg) as an orange oily substance.

reactant | ethyl chloroformate | 455 μL | ClC(=O)OCC | C3H5ClO2
reactant | chloroform | 13 mL | C(Cl)(Cl)Cl | CHCl3
reactant | N-(4-aminobenzyl)-N,N-diethylamine dihydrochloride | 1.0 g | Cl.Cl.NC1=CC=C(CN(CC)CC)C=C1
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | triethylamine | 2.2 mL | C(C)N(CC)CC | C6H15N
product | ethyl N-{4-[(diethylamino)methyl]phenyl}carbamate | 530 mg | C(C)N(CC)CC1=CC=C(C=C1)NC(OCC)=O | C14H22N2O2
